US05220037
EXAMPLE 8 Synthesis of tris(diphenoxymethyloxyphenyl)sulfonium hexafluoroarsenate
20 parts of tris(hydroxyphenyl)sulfonium hexafluoroarsenate are dissolved in 100 parts of tetrahydrofuran. 12.2 parts of triethylamine are added, followed dropwise by the gradual addition of 30 parts of diphenoxychloromethane, and the mixture is stirred at room temperature for 24 hours. The mixture is then washed with water, and the organic solution is dried over a molecular sieve and evaporated in a rotary evaporator. Chromatographic purification leaves 14.8 parts of the expected product. IR and NMR agree with the expected structure.

reactant | tris(hydroxyphenyl)sulfonium hexafluoroarsenate | F[As-](F)(F)(F)(F)F.OC1=C(C=CC=C1)[S+](C1=C(C=CC=C1)O)C1=C(C=CC=C1)O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | diphenoxychloromethane | O(C1=CC=CC=C1)C(Cl)OC1=CC=CC=C1 | C13H11ClO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | tris(diphenoxymethyloxyphenyl)sulfonium hexafluoroarsenate | F[As-](F)(F)(F)(F)F.O(C1=CC=CC=C1)C(OC1=C(C=CC=C1)[S+](C1=C(C=CC=C1)OC(OC1=CC=CC=C1)OC1=CC=CC=C1)C1=C(C=CC=C1)OC(OC1=CC=CC=C1)OC1=CC=CC=C1)OC1=CC=CC=C1 | InChI=1S/C57H45O9S.AsF6/c1-7-25-43(26-8-1)58-55(59-44-27-9-2-10-28-44)64-49-37-19-22-40-52(49)67(53-41-23-20-38-50(53)65-56(60-45-29-11-3-12-30-45)61-46-31-13-4-14-32-46)54-42-24-21-39-51(54)66-57(62-47-33-15-5-16-34-47)63-48-35-17-6-18-36-48;2-1(3,4,5,6)7/h1-42,55-57H;/q+1;-1
